US07411072B2
N-[3-(10,11-Dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenyl]-acetamide
Following procedures essentially as described in Example 90, 3-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenylamine and acetyl chloride give the title compound in 25% yield as a white solid. 1H NMR (CDCl3) δ 2.12 (s, 3H), 2.76-3.61 (br m, 4H), 6.71 (d, 1H), 6.75 (s, 1H), 6.96-7.50 (m, 13H); MS (ES) 340 (M+H). HPLC shows 100% purity.

reactant | 3-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenylamine | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC=3C=C(C=CC3)N | C22H19N
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-[3-(10,11-Dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenyl]-acetamide | 25% yield | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC=3C=C(C=CC3)NC(C)=O | C24H21NO
